US07598258B2
1-(1,3-Thiazol-2-yl)-1-ethanone oxime (Mixture of Isomers)
Commercially available 2-acetyl thiazole (1.27 g) and commercially available hydroxylamine hydrochloride (830 mg) were dissolved in ethanol (40 ml) to prepare a solution. Pyridine (0.97 ml) was added to the solution, and the mixture was stirred at room temperature overnight. Water was added to the reaction solution, and the mixture was extracted three times with ethyl acetate. The organic layer was washed with water and was dried over sodium sulfate. The solvent was removed by evaporation and was dried by means of a vacuum pump to give the title compound (1.25 g, 88%).

reactant | 2-acetyl thiazole | 1.27 g | C(C)(=O)C=1SC=CN1 | C5H5NOS
reactant | hydroxylamine hydrochloride | 830 mg | Cl.NO
reactant | Pyridine | 0.97 ml | N1=CC=CC=C1 | C5H5N
reactant | Water | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-(1,3-Thiazol-2-yl)-1-ethanone oxime | 1.25 g, 88% | S1C(=NC=C1)C(C)=NO | C5H6N2OS
